US07122627B2
1-Amino-3,3-difluoropropyl boronate pinacol·HCl.
1-Iodo-3,3-difluoropropanyl boronate pinacol (2.7 g, 8.1 mmol) was dissolved in THF (10 mL) and was added dropwise to a solution of lithium bis(trimethylsilyl)amide (9.68 mL, 9.68 mmol, 1.0 M in THF) dissolved in anhydrous THF (10 mL) and cooled to −78° C. The reaction mixture was allowed to warm to room temperature and stirred for 12 h. It was concentrated in vacuo and hexane was added. The reaction mixture was cooled to −78° C., followed by the dropwise addition of 4 N anhydrous hydrogen chloride in dioxane (6.05 mL, 24.2 mmol). The mixture was allowed to warm to room temperature and stirred for 5 hours. The reaction mixture was evaporated and chloroform was added. Insoluble material was removed by filtration. The filtrate was evaporated almost to dryness and hexanes were added. Upon standing the product crystallized. It was isolated and washed with cold hexane to yield 1.1 g (52%), mp 138-141° C. 1H NMR (CDCl3) δ 7.68 (bs, 3H), 6.22-6.01 (tt, 1H), 3.42 (m, 1H), 2.76-2.51 (m, 2H), 1.32 (s, 12H). 19F NMR δ −115.2 to −115.5 (dt, CHF2). HRMS calculated for C9H18B1O2F2N+H: 222.1. Found: 222.1.

reactant | 1-Iodo-3,3-difluoropropanyl boronate pinacol | 8.1 mmol, 2.7 g | OC(C)(C)C(C)(C)O.B(OC(CC(F)F)I)O
reactant | lithium bis(trimethylsilyl)amide | 9.68 mmol, 1.0 M, 9.68 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | hydrogen chloride | 4 N | Cl | ClH
reactant | dioxane | 24.2 mmol, 6.05 mL | O1CCOCC1 | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-Amino-3,3-difluoropropyl boronate pinacol·HCl | OC(C)(C)C(C)(C)O.B(OC(CC(F)F)N)O.Cl | InChI=1S/C6H14O2.C3H8BF2NO2.ClH/c1-5(2,7)6(3,4)8;5-2(6)1-3(7)9-4-8;/h7-8H,1-4H3;2-4,8H,1,7H2;1H
